US07612114B2
Synthesized from 2-chloro-6-methoxy-3-nitropyridine according to an analogous synthetic method to Preparation Example 76, 6-methoxy-3-nitro-2-tributylstannylpyridine (5.5 g) and 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate (1.5 g) were used according to an analogous synthetic method to Preparation Example 77 to provide 6-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)-3-nitropyridine (933 mg). This compound (930 mg) was used according to an analogous synthetic method to Example 30 to provide the title compound (340 mg).

reactant | 2-chloro-6-methoxy-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | 6-methoxy-3-nitro-2-tributylstannylpyridine | 5.5 g | COC1=CC=C(C(=N1)[Sn](CCCC)(CCCC)CCCC)[N+](=O)[O-]
reactant | 6-methoxy-3,4-dihydronaphthalen-2-yl trifluoromethanesulfonate | 1.5 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2CC1)OC)(F)F | C12H11F3O4S
product | 6-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)-3-nitropyridine | 933 mg | COC1=CC=C(C(=N1)C1=CC2=CC=C(C=C2CC1)OC)[N+](=O)[O-] | C17H16N2O4
